US05310929
Part B: Preparation of t-Butoxycarbonyloxymethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate
0.22 mL Et3N was added to a mixture of 0.700 g 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate, 0.26 g t-butyl chloromethyl carbonate and 0.59 g n-Bu4NI in 5 mL dry THF under Ar. The reaction was stirred 6 days at room temperature and then concentrated on a rotary evaporator. The residue was partitioned between H2O and CH2Cl2, and the organic extracts dried with MgSO4. Flash chromatography using 1:1 EtOAc/petroleum ether(bp 40°-60° C.) gave 0.40 g of the title compound.

reactant | Et3N | 0.22 mL | CCN(CC)CC | C6H15N
reactant | 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.700 g | C(C)C=1N=C(N(C1C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC
reactant | t-butyl chloromethyl carbonate | 0.26 g | C(OC(C)(C)C)(OCCl)=O | C6H11ClO3
catalyst | n-Bu4NI | 0.59 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | t-Butoxycarbonyloxymethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.40 g | C(C)C=1N=C(N(C1C(=O)OCOC(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C48H48N6O5
